US09284296B2
Over a suspension of Ra—Ni (400 mg, excess) in tetrahydrofuran, under hydrogen, a solution of 4-Methoxy-[2,2′]bipyridinyl-6-carbonitrile (500 mg, 2.37 mmol) was added in tetrahydrofuran (10 mL) and the reaction mixture was stirred for 16 h at 25° C. The reaction was then filtered through celite, washed with tetrahydrofuran (100 mL) and the organic phase evaporated to dryness affording C-(4-Methoxy-[2,2′]bipyridinyl-6-yl)-methylamine as a pale yellow oil (466 mg, 91%).

reactant | 4-Methoxy-[2,2′]bipyridinyl-6-carbonitrile | 2.37 mmol, 500 mg | COC1=CC(=NC(=C1)C#N)C1=NC=CC=C1 | C12H9N3O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
catalyst | Ra—Ni | 400 mg | [Ni] | Ni
product | C-(4-Methoxy-[2,2′]bipyridinyl-6-yl)-methylamine | 466 mg, 91% | COC1=CC(=NC(=C1)CN)C1=NC=CC=C1 | C12H13N3O
